US07884124B2
2.1.i) Synthesis of (E)-4-styrylfuran-2-carbaldehyde
The title compound was synthesized from 4-bromo-furan-2-carboxaldehyde (1.1 g, 6.3 mmol, 1 equiv) and trans-phenylvinyl-boronic acid (1.4 g, 9.4 mmol, 1.5 equiv) using the conditions used to synthesize 4-(4-chlorobenzyl)thiophene-2-carbaldehyde, with the exception that the reaction was run in DMF (25 mL). The resulting residue was purified via ISCO Companion (0-30% EtOAc/heptane) and preparative HPLC using the Chromeleon purification system (0.1% formic acid/1% acetonitrile mixture in water (aqueous phase) and methanol (no modifier added—organic phase) using a 50 mm Dynamax HPLC C-18 column at 28 mL/min (initial gradient of 40% methanol and increasing to 100% over 7 min)) afforded a clean product, retention time of product: 3.4-3.6 min. Amount of (E)-4-styrylfuran-2-carbaldehyde isolated: 89.1 mg (7% yield). 1H NMR (400 MHz, CD3CN) δ (ppm): 9.62 (d, J=0.59 Hz, 1H), 7.91 (s, 1H), 7.63 (d, J=0.63 Hz, 1H), 7.50-7.55 (m, 2H), 7.35-7.42 (m, 2H), 7.26-7.32 (m, 1H), 7.08 (s, 2H).

reactant | 4-bromo-furan-2-carboxaldehyde | 6.3 mmol, 1.1 g, 1 equiv | BrC=1C=C(OC1)C=O | C5H3BrO2
reactant | trans-phenylvinyl-boronic acid | 9.4 mmol, 1.4 g, 1.5 equiv | C1(=CC=CC=C1)/C=C/B(O)O | C8H9BO2
reactant | 4-(4-chlorobenzyl)thiophene-2-carbaldehyde | ClC1=CC=C(CC=2C=C(SC2)C=O)C=C1 | C12H9ClOS
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | (E)-4-styrylfuran-2-carbaldehyde | C(=C\C1=CC=CC=C1)/C=1C=C(OC1)C=O | C13H10O2
